US05190934
A solution of 15.0 g of ethyl n-butylphosphinate in anhydrous tetrahydrofuran containing 11.11 g of triethylamine is treated under an inert gas with an anhydrous tetrahydrofuran solution of 11.95 g of trimethylchlorosilane. A white precipitate forms immediately and the resulting suspension is stirred for 24 hours at room temperature under an inert gas. The reaction mixture is then filtered under an inert gas and the filtrate concentrated in vacuo to afford a cloudy oil which is then treated with 3.76 g of 3-(N-tert.-butoxycarbonylamino)-2-methyl-2,3-epoxypropane and 1 g of anhydrous zinc chloride. An exothermic reaction results. After the exotherm has subsided the clear solution is heated slowly to 70° and stirred at this temperature for 4 hours, after which time chromatographic analysis indicates the reaction to be complete. The reaction mixture is cooled to room temperature, diluted with dichloromethane and washed with water. Drying of the solvent and removal in vacuo affords an oil. The excess starting material is removed by Kugelrohr-distillation in high vacuum and the pale yellow residue chromatographed on silica-gel to give ethyl 3 -(N-tert.-butoxycarbonylamino)-2-hydroxy-2-methyl-propyl-(n-butyl)phosphinate as a colourless oil; 1H-NMR (CDCl3): δ (ppm)=5.17+4.68 (1H, Exch. D2O, NH), 4.07 (2H, m, CH2OP), 3.18 (2H, m, CH2N), 1.93-1.22 (24H, m, becomes 23H on D2O exchange), 0.92 (3H, t,CH3). 31P-NMR (CDCl3); 59.6, 59.3.

reactant | ethyl n-butylphosphinate | 15.0 g | C(CCC)P(OCC)=O | C6H15O2P
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | trimethylchlorosilane | 11.95 g | C[Si](Cl)(C)C | C3H9ClSi
reactant | 3-(N-tert.-butoxycarbonylamino)-2-methyl-2,3-epoxypropane | 3.76 g | C(C)(C)(C)OC(=O)NC1C(C)(O1)C | C9H17NO3
solvent | tetrahydrofuran | 11.11 g | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | zinc chloride | 1 g | [Cl-].[Zn+2].[Cl-]
product | ethyl 3 -(N-tert.-butoxycarbonylamino)-2-hydroxy-2-methyl-propyl-(n-butyl)phosphinate | C(C)(C)(C)OC(=O)NCC(CP(OCC)(=O)CCCC)(C)O | C15H32NO5P
